US04328349
A solution of 4-methyl-5-[(2-aminoethyl)-thiomethyl]imidazole (17.0 g.) and N-cyano-N',S-dimethylisothiourea (11.2 g.) in acetonitrile (500 ml.) was heated under reflux for 24 hours. Following concentration, the residue was chromatographed on a column of silica gel with acetonitrile as eluant and the product obtained was finally recrystallized from acetonitrile-ether to yield N-cyano-N'-methyl-N"-[2-((5-methyl-4-imidazolyl)methylthioethyl]guanidine, m.p. 141°-142°.

reactant | 4-methyl-5-[(2-aminoethyl)-thiomethyl]imidazole | 17.0 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | N-cyano-N',S-dimethylisothiourea | 11.2 g | C(#N)NC(SC)=NC | C4H7N3S
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 2-((5-methyl-4-imidazolyl)methylthioethyl]guanidine | CC1=C(N=CN1)CSCCN=C(N)N | C8H15N5S
